US07217723B2
(7Z)-7-Hydroxyimino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid ethyl amide
A solution of 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid ethyl amide (the compound of Preparation Example 115) (96 mg) in ethanol (2 mL) and water (1 mL) was added hydroxylamine.hydrochloride (39 mg) and 46 mg of sodium acetate (46 mg). After heating at 50° C. for 4.5 hours, the reaction solution was cooled to room temperature, the solid that precipitated was collected by filtration, and the title compound (36 mg) was obtained as a colorless solid.

reactant | 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid ethyl amide | C(C)NC(=O)C=1C2=C(SC1)C(CCC2)=O | C11H13NO2S
reactant | water | 1 mL | O | H2O
reactant | hydroxylamine.hydrochloride | 39 mg | Cl.NO
reactant | sodium acetate | 46 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (7Z)-7-Hydroxyimino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid ethyl amide | 36 mg | C(C)NC(=O)C=1C2=C(SC1)\C(\CCC2)=N/O | C11H14N2O2S
